US04371607
Preparation of 3,5-bis-(trichloromethyl)-benzoyl cyanide:
78 g of 3,5-bis-(trichloromethyl)-benzoyl chloride and 0.4 g of dimethylbenzylamine are dissolved in 500 ml of methylene chloride and, at -15° C., first a solution of 10 ml of hydrogen cyanide in 50 ml of methylene chloride and then a solution of 12.4 g of potassium cyanide in 20 ml of water are added dropwise. After 11/2 hours, the mixture is dried by means of sodium sulfate stirred in, the inorganic salts are filtered off with suction and the solvent is stripped off in vacuo. On addition of ether, 14 g (18% of theoretical) of dimeric 3,5-bis-(trichloromethyl)-benzoyl cyanide crystallize out from the remaining viscous residue. The remaining monomeric product is purified by double distillation in a bulb tube.

reactant | 3,5-bis-(trichloromethyl)-benzoyl chloride | 78 g | ClC(C=1C=C(C(=O)Cl)C=C(C1)C(Cl)(Cl)Cl)(Cl)Cl | C9H3Cl7O
reactant | dimethylbenzylamine | 0.4 g | CN(CC1=CC=CC=C1)C | C9H13N
reactant | hydrogen cyanide | 10 ml | C#N | CHN
reactant | potassium cyanide | 12.4 g | [C-]#N.[K+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 3,5-bis-(trichloromethyl)-benzoyl cyanide | ClC(C=1C=C(C(=O)C#N)C=C(C1)C(Cl)(Cl)Cl)(Cl)Cl | C10H3Cl6NO
